US05824691
To a solution of methyl 3-acetoxymethyl-5-(pyrrol-1-yl)benzoate (4.68 g) in dichloromethane (94 ml) was added chlorosulfonyl isocyanate (2.1 ml) at -20° C. under nitrogen. After being stirred for 1 hour at -20° C., to the reaction mixture was added N,N-dimethylformamide (14.0 ml) at -20° C. After being stirred for 1 hour at -20° C. to -10° C., the reaction mixture was poured into water and the product was extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (5:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to afford methyl 3-acetoxymethyl-5-(2-cyanopyrrol-1-yl)benzoate (4.26 g).

reactant | methyl 3-acetoxymethyl-5-(pyrrol-1-yl)benzoate | 4.68 g | C(C)(=O)OCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C15H15NO4
reactant | chlorosulfonyl isocyanate | 2.1 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N,N-dimethylformamide | 14.0 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | dichloromethane | 94 ml | ClCCl | CH2Cl2
product | methyl 3-acetoxymethyl-5-(2-cyanopyrrol-1-yl)benzoate | 4.26 g | C(C)(=O)OCC=1C=C(C(=O)OC)C=C(C1)N1C(=CC=C1)C#N | C16H14N2O4
